US04933405
To a 20 percent w/v 1,2-dichloroethane solution of 1-(p-methacryloxyphenyl)-2,6-dimethyl-3-nonylpyridinium chloride is added 150 g of sodium p-styrene sulfonate. The slurry is heated to 45° C. and stirred for 4 hours. The solids are separated from the supernatant liquid and the 1,2-dichloroethane is removed to give an oil of 1-(p-methacryloxyphenyl)-2,6-dimethyl-3-nonylpyridinium p-styrene sulfonate.

reactant | 1-(p-methacryloxyphenyl)-2,6-dimethyl-3-nonylpyridinium chloride | [Cl-].C(C(=C)C)(=O)OC1=CC=C(C=C1)[N+]1=C(C(=CC=C1C)CCCCCCCCC)C
reactant | sodium p-styrene sulfonate | 150 g | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(p-methacryloxyphenyl)-2,6-dimethyl-3-nonylpyridinium p-styrene sulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C(=C)C)(=O)OC1=CC=C(C=C1)[N+]1=C(C(=CC=C1C)CCCCCCCCC)C | InChI=1S/C26H36NO2.C8H8O3S/c1-6-7-8-9-10-11-12-13-23-15-14-21(4)27(22(23)5)24-16-18-25(19-17-24)29-26(28)20(2)3;1-2-7-3-5-8(6-4-7)12(9,10)11/h14-19H,2,6-13H2,1,3-5H3;2-6H,1H2,(H,9,10,11)/q+1;/p-1
